* C:\Users\demok\AppData\Local\LTspice\Circuit2.asc
R1 N002 N001 5
R2 0 N002 10
R3 N002 N003 20
R4 N003 0 40
V1 N001 0 50
I1 0 N003 3
.op
.backanno
.end