* C:\Users\demok\AppData\Local\LTspice\Draft1.asc
R1 N002 0 1k
R2 N001 N002 2k
V1 N001 0 10
R3 N003 N002 2k
R4 N001 N003 1k
R5 N003 0 2k
.op
.backanno
.end
