* C:\Users\demok\AppData\Local\LTspice\Draft1.asc
R1 N002 0 100
R2 N001 N002 250
V1 N001 0 8
R3 N003 N002 200
R4 N001 N003 100
R5 N003 0 200
R7 N003 N002 500
V2 N002 0 4
.op
.backanno
.end
